US06951879B2
In analogy to example 14.1, Trifluoro-methanesulfonic acid 3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl ester and 4-pentyn-1-ol were converted to yield 5-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-yn-1-ol as yellow oil, MS: 327 (M, 1 Cl).

reactant | Trifluoro-methanesulfonic acid 3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OS(=O)(=O)C(F)(F)F | C14H7ClF3NO3S2
reactant | 4-pentyn-1-ol | C(CCC#C)O | C5H8O
product | 5-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-yn-1-ol | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCO | C18H14ClNOS
